US03994903
3. 4-(4-acetamido-3-nitrophenyl)pyridine
To 160 ml. of nitric acid (90%) cooled to less than 0°C. in an ice-ethanol bath was slowly added with stirring 42 g. of 4-(4-acetamidophenyl)pyridine over a period of about twenty minutes. The reaction mixture was then stirred for 45 minutes, keeping the reaction temperature below 0°C. The reaction mixture was then poured onto ice and the mixture treated with 35% aqueous sodium hydroxide solution, adding ice to keep the mixture cool. The resulting yellow solid was collected, washed with water and air-dried to yield 43.7 g. of 4-(4-acetamido-3-nitrophenyl)pyridine, which was used directly in Example 4 without further purification.

reactant | nitric acid | [N+](=O)(O)[O-] | HNO3
reactant | 4-(4-acetamidophenyl)pyridine | C(C)(=O)NC1=CC=C(C=C1)C1=CC=NC=C1 | C13H12N2O
reactant | sodium hydroxide | [OH-].[Na+]
product | 4-(4-acetamido-3-nitrophenyl)pyridine | C(C)(=O)NC1=C(C=C(C=C1)C1=CC=NC=C1)[N+](=O)[O-] | C13H11N3O3
